* OPA2810 - Rev. 1
* Created by Sean Cashin; March 18, 2019
* Created with Green-Williams-Lis Op Amp Macro-model Architecture
* Copyright 2019 by Texas Instruments Corporation
******************************************************
* MACRO-MODEL SIMULATED PARAMETERS:
******************************************************
* OPEN-LOOP GAIN AND PHASE VS. FREQUENCY  WITH RL, CL EFFECTS (Aol)
* UNITY GAIN BANDWIDTH (GBW)
* INPUT COMMON-MODE REJECTION RATIO VS. FREQUENCY (CMRR)
* POWER SUPPLY REJECTION RATIO VS. FREQUENCY (PSRR)
* DIFFERENTIAL INPUT IMPEDANCE (Zid)
* COMMON-MODE INPUT IMPEDANCE (Zic)
* OPEN-LOOP OUTPUT IMPEDANCE VS. FREQUENCY (Zo)
* OUTPUT CURRENT THROUGH THE SUPPLY (Iout)
* INPUT VOLTAGE NOISE DENSITY VS. FREQUENCY (en)
* INPUT CURRENT NOISE DENSITY VS. FREQUENCY (in)
* OUTPUT VOLTAGE SWING vs. OUTPUT CURRENT (Vo)
* SHORT-CIRCUIT OUTPUT CURRENT (Isc)
* QUIESCENT CURRENT (Iq)
* SETTLING TIME VS. CAPACITIVE LOAD (ts)
* SLEW RATE (SR)
* SMALL SIGNAL OVERSHOOT VS. CAPACITIVE LOAD
* LARGE SIGNAL RESPONSE
* OVERLOAD RECOVERY TIME (tor)
* INPUT BIAS CURRENT (Ib)
* INPUT OFFSET CURRENT (Ios)
* INPUT OFFSET VOLTAGE (Vos)
* INPUT OFFSET VOLTAGE VS. TEMPERATURE (Vos Drift)
* INPUT COMMON-MODE VOLTAGE RANGE (Vcm)
* INPUT OFFSET VOLTAGE VS. INPUT COMMON-MODE VOLTAGE (Vos vs. Vcm)
* INPUT/OUTPUT ESD CELLS (ESDin, ESDout)
******************************************************
.subckt OPA2810 IN+ IN- VCC VEE OUT
******************************************************
.MODEL              R_NOISELESS RES (T_ABS=-273.15)
***                 
C_C10               MID N42834 1e-15
C_C11               N44757 MID 1e-15
C_C12               MID N45892 1e-15
C_C13               N45974 MID 1e-15
C_C14               MID N56659 1e-15
C_C15               N56721 MID 1e-15
C_C16               MID N61579 1e-15
C_C17               MID N68747 1e-12
C_C18               MID N68594 1e-12
C_C19               MID SW_OL 1e-12
C_C1a1              N709083 N709113 3.483e-12
C_C1a14             N964771 N989204 3.979e-14
C_C1a15             N993318 N993328 3.183e-13
C_C1a20             N964475 N964485 227.4n
C_C1a22             MID N964761 3.183e-14
C_C1a3              N704975 N705005 1.447e-12
C_C1a9              N701935 CMRR_0 800e-15
C_C20               CLAMP MID 2.274e-9
C_C33               N406634 0 1e-15
C_C34               N317950 0 1
C_C35               N406794 0 1e-15
C_C36               N797682 MID 1.5f
C_C7                N31014 MID 1e-15
C_C8                MID N35813 1e-15
C_C9                MID N38096 1e-15
C_C_CMn             MID ESDN 3e-12
C_C_CMp             ESDP MID 2e-12
C_C_DIFF            ESDN ESDP 0.5e-12
C_C_VCLP            VCLP MID 1e-12
C_C_VIMON           MID VIMON 1e-9
C_C_VOUT_S          MID VOUT_S 1e-9
E_E2                N91498 MID CL_CLAMP MID 1
E_E3                N112292 MID OUT MID 1
E_E6                MID 0 N317950 0 1
G_G10               N73852 MID N55875 MID -1
G_G11               N55050 MID N56119 MID -1
G_G12               VSENSE MID CLAMP MID -1e-3
G_G15               CLAW_CLAMP MID N797682 MID -1e-3
G_G16               CL_CLAMP MID CLAW_CLAMP MID -1e-3
G_G2                CMRR_2 N10561 CMRR_0 MID -1e-3
G_G36               VCC_B 0 VCC 0 -1
G_G37               VEE_B 0 VEE 0 -1
G_G4                N704975 MID VEE_B MID -0.5112
G_G6                N25816 N11984 N709113 N705005 -1e-3
G_G60               N701935 MID ESDP MID -.08
G_G61               N709083 MID VCC_B MID -.63
G_G62               N797682 MID VSENSE MID -1e-6
G_G64               N964475 MID CL_CLAMP N851538 -90
G_G68               N964495 MID N964485 MID -463.1
G_G8                VCC_CLP MID N35813 MID -1E-3
G_G9                VEE_CLP MID N38096 MID -1E-3
G_Gb1               N964771 MID N964501 MID -1
G_Gb3               N993318 MID N989204 MID -250
I_I_B               N06456 MID DC 2e-12
I_I_OS              ESDN MID DC 1e-12
I_I_Q               VCC VEE DC 3.7e-3
R_R1                ESDP IN+ R_NOISELESS 10e-3
R_R10               ESDN N11991 R_NOISELESS 1e-3
R_R107              VCC_B 0 R_NOISELESS 1
R_R108              N317950 0 R_NOISELESS 1e12
R_R109              VEE_B 0 R_NOISELESS 1
R_R110              VCC_B N406634 R_NOISELESS 1e-3
R_R111              N406634 N317950 R_NOISELESS 1e6
R_R112              N317950 N406794 R_NOISELESS 1e6
R_R113              N406794 VEE_B R_NOISELESS 1e-3
R_R135              N701935 MID R_NOISELESS 1
R_R136              N704975 MID R_NOISELESS 1
R_R142              N797682 MID R_NOISELESS 1e6
R_R151              MID N851530 R_NOISELESS 1
R_R162              MID N964475 R_NOISELESS 1
R_R163              MID N964495 R_NOISELESS 1
R_R164              MID N964771 R_NOISELESS 1
R_R168              MID N993318 R_NOISELESS 1
R_R1a               N964485 N964475 R_NOISELESS 10k
R_R1a1              N989204 N964771 R_NOISELESS 10k
R_R1a10             N701935 CMRR_0 R_NOISELESS 1e8
R_R1a2              N993328 N993318 R_NOISELESS 10k
R_R1a3              N704975 N705005 R_NOISELESS 1e8
R_R1a4              N709083 N709113 R_NOISELESS 1e8
R_R1b5              N964761 N964501 R_NOISELESS 10k
R_R2                ESDN IN- R_NOISELESS 10e-3
R_R21               N11984 N25816 R_NOISELESS 1e3
R_R25               MID N28602 R_NOISELESS 1e9
R_R26               N30136 MID R_NOISELESS 1e9
R_R27               MID N30913 R_NOISELESS 1
R_R28               N31014 N30913 R_NOISELESS 1e-3
R_R29               N35669 VCC_B R_NOISELESS 1e3
R_R2a1              N709113 MID R_NOISELESS 500
R_R2a10             CMRR_0 MID R_NOISELESS 6.7e3
R_R2a13             MID N989204 R_NOISELESS 40.16
R_R2a14             MID N993328 R_NOISELESS 4.545k
R_R2a17             MID N964485 R_NOISELESS 22.05
R_R2a3              N705005 MID R_NOISELESS 1.1e3
R_R2b3              N964501 N964495 R_NOISELESS 9e5
R_R3                MID ESDP R_NOISELESS 12e9
R_R30               N35813 N35669 R_NOISELESS 1e-3
R_R31               VCC_CLP MID R_NOISELESS 1e3
R_R32               N38050 VEE_B R_NOISELESS 1e3
R_R33               N38096 N38050 R_NOISELESS 1e-3
R_R34               VEE_CLP MID R_NOISELESS 1e3
R_R35               MID VCC_CLP R_NOISELESS 1e9
R_R36               N42663 MID R_NOISELESS 1
R_R37               N42834 N42663 R_NOISELESS 1e-3
R_R38               N44757 N44799 R_NOISELESS 1e-3
R_R39               MID N44799 R_NOISELESS 1
R_R4                ESDN MID R_NOISELESS 12e9
R_R40               MID VEE_CLP R_NOISELESS 1e9
R_R41               MID N50645 R_NOISELESS 1e9
R_R42               N45856 MID R_NOISELESS 1
R_R43               N45892 N45856 R_NOISELESS 1e-3
R_R44               N45974 N45986 R_NOISELESS 1e-3
R_R45               MID N45986 R_NOISELESS 1
R_R46               MID N48550 R_NOISELESS 1e9
R_R47               MID N73852 R_NOISELESS 1
R_R48               MID N55050 R_NOISELESS 1
R_R49               MID N56919 R_NOISELESS 1e9
R_R5                N709083 MID R_NOISELESS 1
R_R50               N56635 MID R_NOISELESS 1
R_R51               N56659 N56635 R_NOISELESS 1e-3
R_R52               N56721 N56733 R_NOISELESS 1e-3
R_R53               MID N56733 R_NOISELESS 1
R_R54               MID N56891 R_NOISELESS 1e9
R_R55               N61579 VSENSE R_NOISELESS 1e-3
R_R56               N68747 OLN R_NOISELESS 100
R_R57               N68594 OLP R_NOISELESS 100
R_R58               N69264 MID R_NOISELESS 1
R_R59               N69264 SW_OL R_NOISELESS 100
R_R60               MID AOL_1 R_NOISELESS 1e6
R_R61               MID CLAMP R_NOISELESS 1e6
R_R62               MID VSENSE R_NOISELESS 1e3
R_R65               MID CLAW_CLAMP R_NOISELESS 1e3
R_R66               MID CL_CLAMP R_NOISELESS 1e3
R_R8                N10561 CMRR_2 R_NOISELESS 1e3
R_R81               MID N110431 R_NOISELESS 1e9
R_R83               MID N112292 R_NOISELESS 1e9
R_R9                CMRR_2 N11984 R_NOISELESS 1e-3
R_R_VCLP            N91498 VCLP R_NOISELESS 100
R_R_VIMON           VIMON N110431 R_NOISELESS 100
R_R_VOUT_S          VOUT_S N112292 R_NOISELESS 100
R_Rdummy1           MID N851538 R_NOISELESS 10k
R_Rx1               N851538 N851530 R_NOISELESS 100k
V_V_GRN             N56891 MID -125
V_V_GRP             N56919 MID 125
V_V_ISCN            N48550 MID -75
V_V_ISCP            N50645 MID 70
V_V_ORN             N55875 VCLP -17.52
V_V_ORP             N56119 VCLP 17.52
V_VCM_MAX           N30136 VCC_B 0.3
V_VCM_MIN           N28602 VEE_B -0.3
X_AOL_1             N31014 N11991 MID AOL_1 AOL_1
X_AOL_2             AOL_1 MID MID CLAMP AOL_2
X_CL_AMP            N50645 N48550 VIMON MID N45856 N45986 CLAMP_AMP_LO
X_CL_SRC            N45892 N45974 CL_CLAMP MID CL_SRC
X_CLAW_AMP          VCC_CLP VEE_CLP VOUT_S MID N42663 N44799 CLAMP_AMP_LO
X_CLAW_SRC          N42834 N44757 CLAW_CLAMP MID CLAW_SRC
X_CLAWN             MID VIMON VEE_B N38050 CLAWN
X_CLAWP             VIMON MID N35669 VCC_B CLAWP
X_e_n               ESDP N06456 VNSE
X_ESD_IN            ESDN ESDP VCC VEE ESD_IN
X_ESD_OUT           OUT VCC VEE ESD_OUT
X_GR_AMP            N56919 N56891 N61579 MID N56635 N56733 CLAMP_AMP_HI
X_GR_SRC            N56659 N56721 CLAMP MID GR_SRC
X_H1                N73852 N166377 OLN MID 08_Op_Amp_Complete_H1
X_H2                N55050 N166817 OLP MID 08_Op_Amp_Complete_H2
X_H3                OUT N851538 N110431 MID 08_Op_Amp_Complete_H3
X_i_nn              ESDN MID FEMT
X_i_np              N06456 MID FEMT
X_IQ_N              MID VIMON MID VEE IQ_SRC
X_IQ_P              VIMON MID VCC MID IQ_SRC
X_OL_SENSE          MID N69264 N68747 N68594 OL_SENSE
X_SW_OL             SW_OL MID N964475 N964485 SW_OL
X_SW_OR             CLAMP N166377 N166817 SW_OR
X_VCM_CLAMP         N25816 MID N30913 MID N30136 N28602 VCM_CLAMP
X_VOS_DRIFT         N749288 N06456 VOS_DRIFT
X_VOS_VS_VCM        N10561 N749288 VCC VEE VOS_VS_VCM
X_ZO_SRC            N993328 MID MID N851530 ZO_SRC
.ENDS OPA2810

.subckt 08_Op_Amp_Complete_H3 1 2 3 4  
H_H3         3 4 VH_H3 -1e3
VH_H3         1 2 0V
.ends 08_Op_Amp_Complete_H3

.subckt 08_Op_Amp_Complete_H2 1 2 3 4  
H_H2         3 4 VH_H2 -1
VH_H2         1 2 0V
.ends 08_Op_Amp_Complete_H2

.subckt 08_Op_Amp_Complete_H1 1 2 3 4  
H_H1         3 4 VH_H1 1
VH_H1         1 2 0V
.ends 08_Op_Amp_Complete_H1

*
.subckt AOL_1 VC+ VC- IOUT+ IOUT-
.param Gain = 1e-4
.param Ipos = .5
.param Ineg = -.5
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VC+,VC-),Ineg,Ipos)}
.ends
*$
*
.subckt AOL_2 VC+ VC- IOUT+ IOUT-
.param Gain = 1e-2
.param Ipos = 0.437
.param Ineg = -0.437
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VC+,VC-),Ineg,Ipos)}
.ends
*$
.subckt CLAMP_AMP_HI VC+ VC- VIN COM VO+ VO-
.param G=10
* Output G(COM,0) when condition not met
GVo+ COM Vo+ Value = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
GVo- COM Vo- Value = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
.ends
*$
*
.subckt CLAMP_AMP_LO VC+ VC- VIN COM VO+ VO-
.param G=1
* Output G(COM,0) when condition not met
GVo+ COM Vo+ Value = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
GVo- COM Vo- Value = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
.ends
*$
*
.subckt CLAWn VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {(V(VC+,VC-))} =
+(0.392, 1.30e-4)
+(20.863, 1.40e-5)
+(33.725, 2.07e-4)
+(45.098, 2.07e-4)
+(51.765, 3.24e-4)
+(65.804, 2.07e-4)
+(69.822, 4.4e-4)
.ends
*$
*
.subckt CLAWp VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {(V(VC+,VC-))} =
+(0, 1.4e-5)
+(19.608, 1.69e-4)
+(34.98, 2.85e-4)
+(44.784, 4.79e-4)
+(50.667, 6.33e-4)
+(55.608, 9.43e-4)
+(59.922, 1.25e-3)
+(64.471, 1.68e-3)
+(69.569, 2.65e-3)
.ends
*$
*
.subckt CLAW_SRC VC+ VC- IOUT+ IOUT-
.param Gain = 1
.param Ipos = 0.25
.param Ineg = -0.25
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VC+,VC-),Ineg,Ipos)}
.ends
*$
*
.subckt CL_SRC VC+ VC- IOUT+ IOUT-
.param Gain = 1
.param Ipos = 0.5
.param Ineg = -0.5
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VC+,VC-),Ineg,Ipos)}
.ends
*$
*
.subckt ESD_IN ESDn ESDp VCC VEE
.model ESD_SW VSWITCH(Ron=50 Roff=1e12 Von=500e-3 Voff=450e-3)
S1 VCC ESDn ESDn VCC ESD_SW
S2 VCC ESDp ESDp VCC ESD_SW
S3 ESDn VEE VEE ESDn ESD_SW
S4 ESDp VEE VEE ESDp ESD_SW
.ends
*$
*
.subckt ESD_OUT OUT VCC VEE
.model ESD_SW VSWITCH(Ron=50 Roff=1e12 Von=500e-3 Voff=450e-3)
S1 VCC OUT OUT VCC ESD_SW
S2 OUT VEE VEE OUT ESD_SW
.ends
*$
*
.subckt FEMT 1 2
.param NVRF=5
.param RNVF={1.184*PWR(NVRF,2)}
E1 3 0 5 0 10
R1 5 0 {RNVF}
R2 5 0 {RNVF}
G1 1 2 3 0 1e-6
.ends
*$
*
.subckt GR_SRC VC+ VC- IOUT+ IOUT-
.param Gain = 1
.param Ipos = 1.4
.param Ineg = -1.4
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VC+,VC-),Ineg,Ipos)}
.ends
*$
*
.subckt IQ_SRC VC+ VC- IOUT+ IOUT-
.param Gain = 1e-3
G1 IOUT+ IOUT- VALUE={IF( (V(VC+,VC-)<=0),0,Gain*V(VC+,VC-) )}
.ends
*$
*
.subckt OL_SENSE 1   2  3  4
* pins          COM SW+ OLN OLP
GSW+ 1 2 Value = {IF((V(3,1)>10e-3 | V(4,1)>10e-3),1,0)}
.ends
*$
*
.subckt SW_OL SW_OL MID CAP_L CAP_R
.model OL_SW VSWITCH(Ron=1e-3 Roff=1e9 Von=900e-3 Voff=800e-3)
S1 CAP_L CAP_R SW_OL MID OL_SW
.ends
*$
*
.subckt SW_OR CLAMP OLN OLP
.model OR_SW VSWITCH(Ron=10e-3 Roff=1e9 Von=10e-3 Voff=0)
S1 OLP CLAMP CLAMP OLP OR_SW
S2 CLAMP OLN OLN CLAMP OR_SW
.ends
*$
*
.subckt VCM_CLAMP VIN+ VIN- IOUT- IOUT+ VP+ VP-
.param Gain = 1
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VIN+,VIN-),V(VP-,VIN-), V(VP+,VIN-))}
.ends
*$
*
.subckt VNSE 1 2
.param FLW=1
.param NLF=450
.param NVR=6
.param GLF={PWR(FLW,0.25)*NLF/1164}
.param RNV={1.184*PWR(NVR,2)}
.model DVN D KF={PWR(FLW,0.5)/1E11} IS=1.0E-16
* Circuit connections
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVN
D2 8 0 DVN
E1 3 6 7 8 {GLF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNV}
R5 5 0 {RNV}
R6 3 4 1E9
R7 4 0 1E9
E3 1 2 3 4 1
.ends
*$
*
.subckt VOS_DRIFT VOS+ VOS-
.param DC = -6.2e-6
.param POL = 1
.param DRIFT = 1.5e-6
E1 VOS+ VOS- VALUE={DC+POL*DRIFT*(TEMP-27)}
.ends
*$
*
.subckt VOS_VS_VCM V+ V- REF+ REF-
* Positive rail Vos
E1 V+ 1 TABLE {(V(REF+, V-))} =
+(0.35, 450e-6)
+(0.4, 435e-6)
+(0.55, 275e-6)
+(0.65, 150e-6)
+(0.75, 75e-6)
+(0.85, 25e-6)
+(1, 0)
* Negative rail Vos
V1 1 V- 0
.ends
*$
*
.subckt ZO_SRC VC+ VC- IOUT+ IOUT-
.param Gain = 3.2
.param Ipos = 14e3
.param Ineg = -14e3
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VC+,VC-),Ineg,Ipos)}
.ends
*$
